US08461151B2
a) cis/trans-4-Hydroxy-cyclohexanecarboxylic acid hydrazide (2:1)
A mixture of cis/trans-4-hydroxycyclohexane carboxylic acid ethyl ester (5.0 g, 29 mmol) and hydrazine hydrate (1.4 g, 29 mmol) was heated at reflux for 24 h. Residual water was removed by azeotropic distillation with toluene. The residue was triturated from tert-butyl methyl ether. The precipitate was collected by filtration and dried in vacuo to give the title compound as white solid in 91% yield.

reactant | trans-4-hydroxycyclohexane carboxylic acid ethyl ester | 29 mmol, 5.0 g | C(C)OC(=O)[C@@H]1CC[C@H](CC1)O | C9H16O3
reactant | hydrazine hydrate | 29 mmol, 1.4 g | O.NN
product | trans-4-Hydroxy-cyclohexanecarboxylic acid hydrazide | 91% yield | O[C@@H]1CC[C@H](CC1)C(=O)NN | C7H14N2O2
